US06403595B1
2,2-Dimethoxyethyl[4-(1H-imidazol-1-yl)benzyl]amine
To a solution of 2,2-dimethoxyethylamine (526 mg) and 4-(1H-imidazol-1-yl)benzaldehyde (861 mg) in methanol (25 ml) was added acetic acid (600 mg), and the mixture was stirred at room temperature for 1 hour. To the mixture was added, under ice-cooling, sodium triacetoxyborohydride (1.59 g), and the mixture was stirred at room temperature for 3 hours. The reaction solution was concentrated, and to the residue was added 1 N sodium hydroxide solution. The mixture was extracted with dichloromethane, dried and concentrated to give colorless oil of the title compound (1.21 g).

reactant | 2,2-dimethoxyethylamine | 526 mg | COC(CN)OC | C4H11NO2
reactant | 4-(1H-imidazol-1-yl)benzaldehyde | 861 mg | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | acetic acid | 600 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.59 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2,2-Dimethoxyethyl[4-(1H-imidazol-1-yl)benzyl]amine | 1.21 g | COC(CNCC1=CC=C(C=C1)N1C=NC=C1)OC | C14H19N3O2
